US07863271B2
Following general procedure GP-A, (S)-3-ethylmorpholine and methyl 2,6-dichlorobenzoxazole-4-carboxylate were coupled to provide (S)-methyl 6-chloro-2-(3-ethylmorpholino)benzoxazole-4-carboxylate. MS consistent.

reactant | (S)-3-ethylmorpholine | C(C)[C@@H]1NCCOC1 | C6H13NO
reactant | methyl 2,6-dichlorobenzoxazole-4-carboxylate | ClC=1OC=2C(N1)=C(C=C(C2)Cl)C(=O)OC | C9H5Cl2NO3
product | (S)-methyl 6-chloro-2-(3-ethylmorpholino)benzoxazole-4-carboxylate | ClC=1C=C2C(N=C(O2)N2[C@H](COCC2)CC)=C(C1)C(=O)OC | C15H17ClN2O4
